US07226923B2
N-Ethyl-N-{4-[4-(5-methyl-1H-pyrazol-3-ylamino)-1-oxo-1H-phthalazin-2-yl]-phenyl}-acetamide
N-[4-(4-Bromo-1-oxo-1H-phthalazin-2-yl)-phenyl]-N-ethyl-acetamide (0.10 g, 0.027 mmol), 3-amino-5-methyl-pyrazole-1-carboxylic acid tert-butyl ester (0.006 g, 0.03 mmol), Cs2CO3 (0.01 g, 0.03 mmol), tris-(dibenzylideneacetone)-dipalladium (0.001 g, 0.001 mmol) and 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene (0.002 g, 0.003 mmol) under nitrogen were heated to 100° C. for 18 hours, and then allowed to cool to room temperature. H2O was added and the solvent was evaporated in vacuum. Purification via chromatography gave the title compound (0.003 g, 23% yield). 1H-NMR: (400 MHz, D6-DMSO) 9.28 (1H, s), 8.51 (1H, d), 8.38 (1H, d), 7.99 (1H, t), 7.91 (1H, t), 7.87 (2H, d), 7.41 (2H, d), 6.25 (1H, s), 3.69 (2H, q), 2.20 (3H, s), 1.81 (3H, s), 1.07 (3H, t); MS (ESI+)=403.34 (M+H)+.

reactant | N-[4-(4-Bromo-1-oxo-1H-phthalazin-2-yl)-phenyl]-N-ethyl-acetamide | 0.027 mmol, 0.10 g | BrC1=NN(C(C2=CC=CC=C12)=O)C1=CC=C(C=C1)N(C(C)=O)CC | C18H16BrN3O2
reactant | 3-amino-5-methyl-pyrazole-1-carboxylic acid tert-butyl ester | 0.03 mmol, 0.006 g | C(C)(C)(C)OC(=O)N1N=C(C=C1C)N | C9H15N3O2
reactant | Cs2CO3 | 0.03 mmol, 0.01 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene | 0.003 mmol, 0.002 g | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
catalyst | tris-(dibenzylideneacetone)-dipalladium | 0.001 mmol, 0.001 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | H2O | O | H2O
product | N-Ethyl-N-{4-[4-(5-methyl-1H-pyrazol-3-ylamino)-1-oxo-1H-phthalazin-2-yl]-phenyl}-acetamide | 0.003 g, 23% yield | C(C)N(C(C)=O)C1=CC=C(C=C1)N1C(C2=CC=CC=C2C(=N1)NC1=NNC(=C1)C)=O | C22H22N6O2
